US04496560
A suspension of iodine (2.54 g) in dry methylene chloride (20 cc) is added, in 5 minutes, to a solution, cooled to -55° C., of 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-dimethylamino-vinyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene, E-form (5.35 g) in dry tetrahydrofuran (20 cc). The reaction mixture is stirred for 2 hours, whilst allowing the temperature gradually to return to 0° C., and is then treated with distilled water (0.36 cc) and stirred for 2 hours at 5° C. A solution of thiourea (0.57 g) in a mixture of tetrahydrofuran (5 cc) and water (2 cc) is added to 25 cc of this reaction mixture and this mixture is stirred for 16 hours at 25° C. Thiourea (0.57 g) is added, stirring is continued for 3 hours at 25° C., and the mixture is then diluted with ethyl acetate (150 cc). The organic phase is washed successively with distilled water (100 cc), saturated sodium bicarbonate solution (100 cc), distilled water (100 cc) and a half-saturated sodium chloride solution (100 cc). After having dried the mixture over magnesium sulphate, the solvent is evaporated under reduced pressure (30 mm Hg; 4 kPa) at 30° C. The residue is chromatographed on a column (height: 30 cm; diameter: 2 cm) of silica (0.04-0.06 mm), elution being carried out under 0.4 bar (40 kPa) with a 45:55 (by volume) mixture of cyclohexane and ethyl acetate. After evaporation of the solvents, 3-(2-amino-thiazol-5-yl)-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]-oct-2-ene (0.08 g) is obtained in the form of an orange froth, whose characteristics are identical to those of the product described below, in Example 2.

reactant | iodine | 2.54 g | II | I2
reactant | 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-dimethylamino-vinyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C=CN(C)C)NC(=O)OC(C)(C)C)=O | C29H33N3O5S
reactant | thiourea | 0.57 g | NC(=S)N | CH4N2S
reactant | Thiourea | 0.57 g | NC(=S)N | CH4N2S
solvent | methylene chloride | 20 cc | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 20 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 cc | O1CCCC1 | C4H8O
solvent | water | 2 cc | O | H2O
solvent | ethyl acetate | 150 cc | C(C)(=O)OCC | C4H8O2
solvent | water | 0.36 cc | O | H2O
product | 3-(2-amino-thiazol-5-yl)-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]-oct-2-ene | 0.08 g | NC=1SC(=CN1)C1=C(N2C(C(C2SC1)NC(=O)OC(C)(C)C)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C28H28N4O5S2
